US04339267
Methyl N'-(2-chlorophenylsulfonyl)-N-(5,6-dihydro-4-methylfuro[2,3-d]pyrimidin-2-yl)carbamimidothioate
To a suspension of 3.85 g 2-chloro-N-[(5,6-dihydro-2-methylfuro[2,3-d]pyrimidine-2-yl)aminothioxomethyl]benzenesulfonamide in 150 ml of anhydrous tetrahydrofuran was added 4.3 ml of 3 M NaOCH3 /CH3OH solution. The reaction reaction mixture was refluxed for 1.25 hour, whereupon 1.85 g of methyl iodide in 10 ml of anhydrous tetrahydrofuran was added. After refluxing and stirring for an additional 12 hours, the reaction mixture was cooled, solvent was removed under vacuum and the residue was recrystallized from acetonitrile to yield 1 g of the product.

reactant | 2-chloro-N-[(5,6-dihydro-2-methylfuro[2,3-d]pyrimidine-2-yl)aminothioxomethyl]benzenesulfonamide | 3.85 g | ClC1=C(C=CC=C1)S(=O)(=O)NC(=S)NC1(N=CC2=C(N1)OCC2)C | C14H15ClN4O3S2
reactant | NaOCH3 CH3OH | 3 M, 4.3 ml | O([Na])C.CO
reactant | methyl iodide | 1.85 g | CI | CH3I
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | Methyl N'-(2-chlorophenylsulfonyl)-N-(5,6-dihydro-4-methylfuro[2,3-d]pyrimidin-2-yl)carbamimidothioate | 1 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C(NC=1N=C(C2=C(N1)OCC2)C)SC | C15H15ClN4O3S2
